US07592477B2
{{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The same procedure as employed in the preparation of Example 2 but using N-methyl-D-glucamine and {{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetic acid gave the title compound as a white powder (95%). M−(LC/MS(ESI)): 586.3. HPLC (Condition A), Rt: 6.22 min (HPLC purity: 99.9%). Analysis calculated for C32H40F3N3O4.C7H17NO5▪1.5H2O: C, 57.84; H, 7.47; N, 6.92%. Found: C, 57.79; H, 7.46; N, 6.88%.

reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | {{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetic acid | CC(C)(C1=CC=C(C=C1)C(F)(F)F)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C(C(=O)O)=O | C32H40F3N3O4
product | {{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}(oxo)acetic acid N-methyl-D-glucamine | 95% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.CC(C)(C1=CC=C(C=C1)C(F)(F)F)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C(C(=O)O)=O | InChI=1S/C32H40F3N3O4.C7H17NO5/c1-4-5-6-7-8-9-10-11-12-13-27-36-28(42-37-27)24-16-14-23(15-17-24)22-38(29(39)30(40)41)31(2,3)25-18-20-26(21-19-25)32(33,34)35;1-8-2-4(10)6(12)7(13)5(11)3-9/h14-21H,4-13,22H2,1-3H3,(H,40,41);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
